US05360822
5'-Amino-2'-fluoroacetophenone (28 g) was dissolved in a mixture of 100 ml of ethyl acetate and 15.9 g of pyridine, a solution of 23 g of methanesulfonyl chloride in 50 ml of ethyl acetate was added with ice-cooling and stirring and the mixture was made to react at room temperature for 3 hours. The reaction mixture was washed with water, dried, the solvent was evaporated therefrom and the residue was purified by silica gel column chromatography (eluting with chloroform) to give 33.7 g of 3'-acetyl-4'-fluoromethanesulfonanilide, m.p. 120°-123° C.

reactant | 5'-Amino-2'-fluoroacetophenone | 28 g | NC=1C=CC(=C(C1)C(C)=O)F | C8H8FNO
reactant | methanesulfonyl chloride | 23 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 15.9 g | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3'-acetyl-4'-fluoromethanesulfonanilide | 33.7 g | C(C)(=O)C=1C=C(NS(=O)(=O)C)C=CC1F | C9H10FNO3S
